US09112157B2
A solution of 4-(2-(4-(diphenylamino)phenyl)benzo[b]thiophen-3-yl)benzaldehyde (1.1 g, 0.0023 mol) was prepared in anhydrous tetrahydrofuran (75 mL). To a dry round bottom flask equipped with an addition funnel, methyltriphenylphosphonium bromide (1.22 g, 0.003 mol) was added. Tetrahydrofuran (75 mL) was added to this reaction flask and allowed to stir. Potassium tert-butoxide (0.40 g, 0.0035 mol) was then added. The solution of (2-(4-(diphenylamino)phenyl)benzo[b]thiophen-3-yl)benzaldehyde/THF was then transferred to the addition funnel via cannula. This solution was then added to the reaction flask from the addition funnel drop-wise. The reaction solution was allowed to stir for approximately 1 hour and completion was then monitored via thin-layer chromatography. Following confirmation of completion, the reaction solution was filtered through a celite/silica gel (treated with triethylamine) plug. Solvent was removed by rotary evaporation. And the resulting solids were placed under vacuum. Crude mixture was purified by chromatography. Precipitation from a minimum amount of ethyl acetate into methanol yielded 1H NMR pure product. Product obtained: 0.7 g

reactant | Potassium tert-butoxide | 0.0035 mol, 0.40 g | CC(C)([O-])C.[K+]
reactant | (2-(4-(diphenylamino)phenyl)benzo[b]thiophen-3-yl)benzaldehyde THF | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C2=C(C=O)C=CC=C2)C2=CC=CC=C2.C1CCOC1
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.003 mol, 1.22 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 4-(2-(4-(diphenylamino)phenyl)benzo[b]thiophen-3-yl)benzaldehyde | 0.0023 mol, 1.1 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C33H23NOS
